US08957093B2
Step 1: (S)-tert-butyl 4′-((2,3-dimethyl-5-((1-(3-(prop-1-en-2-yl)phenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate
A solution of (S)-tert-butyl 4′-((5-((1-(3-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate (83 mg, 0.13 mmol, 1 equiv.), K2CO3 (36 mg, 0.26 mmol, 2 equiv.) and Pd(PPh3)4 (15 mg, 0.013 mmol, 0.1 equiv.) in dioxane/water (1.2 mL/0.3 mL) was degassed with argon. The isopropenylboronic acid pinacol ester (49 μL, 0.26 mmol, 2 equiv.) was added and the solution was heated at 100° C. for 1 h under microwave irradiation. The resulting solution was diluted with ethyl acetate, washed with a 0.5 N HCl solution, saturated aqueous NaHCO3 and brine, and then dried over Na2 SO4. The obtained oil was used without further purification. ESI-MS (m/z): 599 [M+H]+.

reactant | (S)-tert-butyl 4′-((5-((1-(3-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | 0.13 mmol, 83 mg, 1 equiv. | BrC=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C37H37BrN2O3
reactant | K2CO3 | 0.26 mmol, 36 mg, 2 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropenylboronic acid pinacol ester | 0.26 mmol, 49 μL, 2 equiv. | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
solvent | dioxane water | 1.2 mL | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.013 mmol, 15 mg, 0.1 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-butyl 4′-((2,3-dimethyl-5-((1-(3-(prop-1-en-2-yl)phenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | CC=1N(C2=CC=C(C=C2C1C)C(N[C@@H](C)C1=CC(=CC=C1)C(=C)C)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C40H42N2O3
